US07482448B2
Morpholine-4-carboxylic acid {1-[1-(5-cyclopropyl-[1,3,4]oxadiazole-2-carbonyl)-propylcarbamoyl]-3,3-difluoro-phenyl-butyl}-amide
By proceeding in a similar manner to Example 1 above but using (S)-4,4-difluoro-2-[(morpholine-4-carbonyl)-amino]-5-phenyl-pentanoic acid and (S)-2-amino-1-(5-cyclopropyl-1,3,4-oxadiazol-2-yl)-butan-1-ol Trifluoro acetic acid salt, there is prepared morpholine-4-carboxylic acid {1-[1-(5-cyclopropyl-[1,3,4]oxadiazole-2-carbonyl)-propylcarbamoyl]-3,3-difluoro-4-phenyl-butyl}-amide.

reactant | (S)-4,4-difluoro-2-[(morpholine-4-carbonyl)-amino]-5-phenyl-pentanoic acid | FC(C[C@@H](C(=O)O)NC(=O)N1CCOCC1)(CC1=CC=CC=C1)F | C16H20F2N2O4
reactant | (S)-2-amino-1-(5-cyclopropyl-1,3,4-oxadiazol-2-yl)-butan-1-ol Trifluoro acetic acid salt | FC(C(=O)O)(F)F.NC([C@H](O)C=1OC(=NN1)C1CC1)CC
reactant | morpholine-4-carboxylic acid {1-[1-(5-cyclopropyl-[1,3,4]oxadiazole-2-carbonyl)-propylcarbamoyl]-3,3-difluoro-4-phenyl-butyl}-amide | C1(CC1)C1=NN=C(O1)C(=O)C(CC)NC(=O)C(CC(CC1=CC=CC=C1)(F)F)NC(=O)N1CCOCC1 | C25H31F2N5O5
product | Morpholine-4-carboxylic acid {1-[1-(5-cyclopropyl-[1,3,4]oxadiazole-2-carbonyl)-propylcarbamoyl]-3,3-difluoro-phenyl-butyl}-amide | C1(CC1)C1=NN=C(O1)C(=O)C(CC)NC(=O)C1(CC(CC=C1)(F)F)CCCCNC(=O)N1CCOCC1 | C25H35F2N5O5
